US07417062B2
Step 2: Isoquinoline-3-carbaldehyde
To a solution of 1.35 g (6.24 mmol) of isoquinoline-3-carboxylic acid methoxy-methyl-amide was dissolved in 50 ml tetrahydrofuran, 7.49 mL of 1.0 M DIBAL solution in heptane was added at −78° C. The reaction was warmed to room temperature and stirred for 1 hour at r.t., and then quenched by addition of 10 mL saturated sodium bicarbonate. 100 mL of water was added followed by extraction with 100 ml of dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuum to give colorless oil. The crude was used to next step without further purification. LC-MSD, m/z for C10H7NO [M+H]+: 158.2. LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 min: 0.221 min.

reactant | isoquinoline-3-carboxylic acid methoxy-methyl-amide | 6.24 mmol, 1.35 g | CON(C(=O)C=1N=CC2=CC=CC=C2C1)C | C12H12N2O2
reactant | DIBAL | 1.0 M, 7.49 mL | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | Isoquinoline-3-carbaldehyde | C1=NC(=CC2=CC=CC=C12)C=O | C10H7NO
